US07550598B2
(Z)—N-(4-(2-(3-isopropyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide
(Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-isopropyl-1H-pyrazol-5(4H)-one (0.029 g, 0.089 mmol) was dissolved in ethanol (1 mL) and 4-acetamidothiophenol (0.016 g, 0.094 mmol) was added. The reaction mixture was heated to 180° C. using a microwave reactor for 30 minutes. The mixture was then concentrated and purified by LC-MS to give Example 19. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.96 (d, J=6.82 Hz, 6H) 2.13 (s, 3H) 2.53 (bs, 1H) 6.65 (s, 1H) 7.68-7.70 (m, 3H) 7.86-7.97 (m, 3H) 8.02 (s, 1H) 8.20 (d, J=8.34 Hz, 1H) 10.43 (s, 1H); ESI-MS: m/z calc'd for C23H22N4O2S 418.51. found 419.3 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-isopropyl-1H-pyrazol-5(4H)-one | 0.089 mmol, 0.029 g | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C(C)C | C15H14ClN3O
reactant | 4-acetamidothiophenol | 0.094 mmol, 0.016 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (Z)—N-(4-(2-(3-isopropyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide | C(C)(C)C/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(C)=O)=O | C23H22N4O2S
